US08877922B2
(S)-ethyl 1-(3-methylbutanoyl)piperidine-3-carboxylate
Ethyl (S)-Piperidine-3-carboxylate (25 g, 159.02 mmol) in anhydrous DCM (500 mL) was cooled down to 0° C. and treated with Et3N. A solution of isovaleryl chloride (23.27 mL, 190.08 mmol, 1.2 eq.) in anhydrous DCM (200 mL) was added dropwise at 0° C. The resulting reaction mixture was kept on the cooling bath and allowed to warm up slowly to room temperature. After 6 hrs the reaction was washed subsequently with aqueous HCl solution (2M), saturated NaHCO3, brine, dried over Na2SO4, filtered, concentrated under vacuum and purified by filtration over a short silica gel column using EtOAc as solvent. The solvent was removed under vacuum to yield the desired product as pale yellow oil (37.4 g, 154.97 mmol, 97.5%) that was used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6, 20° C.) δ0.88 (pseudo d, J=6.4 Hz, 6H), 1.13-1.23 (m, 3H), 1.26-1.45 (m, 1H), 1.47-1.75 (m, 2H), 1.82-2.03 (m, 2H), 2.10-2.28 (m, 2H), 2.28-2.39 (m, 0.5H), 2.45-2.56 (m, 0.5H), 2.84 (dd, J=10.0, 12.8 Hz, 0.5H), 2.97-3.11 (m, 1H), 3.38 (dd, J=8.8, 13.6 Hz, 0.5H), 3.63-3.83 (m, 1.5H), 4.00-4.14 (m, 2H), 4.26-4.36 (dm, 0.5H). MS 242 (MH).

reactant | Ethyl (S)-Piperidine-3-carboxylate | 159.02 mmol, 25 g | N1C[C@H](CCC1)C(=O)OCC | C8H15NO2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | isovaleryl chloride | 190.08 mmol, 23.27 mL, 1.2 eq. | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (S)-ethyl 1-(3-methylbutanoyl)piperidine-3-carboxylate | 154.97 mmol, 37.4 g, 97.5% | CC(CC(=O)N1C[C@H](CCC1)C(=O)OCC)C | C13H23NO3
